US07423051B2
To a solution of 2,6-dichloronicotinic acid (500 mg, 2.63 mmol, Aldrich 90%) in anhydrous N,N-dimethylformamide (5 mL) were added O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate (1.28 g, 3.37 mmol, Aldrich), 1-hydroxybenzotriazole hydrate (456 mg, 3.37 mmol, Aldrich) followed by N,N-diisopropylethylamine (1.3 g, 10.0 mmol) and N,O-dimethylhydroxylamine hydrochloride (306 mg, 3.15 mmol, Aldrich) at 0° C. The reaction was stirred for 1-2 hrs, treated with water and extracted with ethyl acetate. The combined organic extracts were washed with brine, dried and concentrated. The crude product was purified on silica gel with hexanes/ethyl acetate to give 2,6-Dichloro-N-methoxy-N-methyl-nicotinamide as a white solid (304.5 mg, 50% yield). HRMS, observed: 233.9968, Calcd for M+: 233.9963

reactant | 2,6-dichloronicotinic acid | 2.63 mmol, 500 mg | ClC1=C(C(=O)O)C=CC(=N1)Cl | C6H3Cl2NO2
reactant | O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 3.37 mmol, 1.28 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 1-hydroxybenzotriazole hydrate | 3.37 mmol, 456 mg | O.ON1N=NC2=C1C=CC=C2
reactant | N,N-diisopropylethylamine | 10.0 mmol, 1.3 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,O-dimethylhydroxylamine hydrochloride | 3.15 mmol, 306 mg | Cl.CNOC
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2,6-Dichloro-N-methoxy-N-methyl-nicotinamide | 304.5 mg, 50% yield | ClC1=C(C(=O)N(C)OC)C=CC(=N1)Cl | C8H8Cl2N2O2
